US05318972
Next, 11 ml (22 mmol) of 2.0M solution of lithium diisopropylamide in tetrahydrofuran was added under a nitrogen atmosphere to 30 ml of tetrahydrofuran which has been cooled down to -70° C. in advance. To this was added dropwise 14 ml of tetrahydrofuran solution containing 3.3 g (10 mmol) of the thus obtained 1-[(2-t-butyldimethylsilyloxyethoxy)methyl]-5-ethyluracil by keeping the reaction solution at a temperature of -70° C. or lower. The resulting mixture was stirred for 1 hour at -70° C. To this was dropwisely added 10 ml of tetrahydrofuran solution containing 2.8 g (13 mmol) of diphenyl disulfide. After 1 hour, the resulting reaction mixture was further mixed with 1.3 ml of acetic acid, adjusted to room temperature and subjected to partition using an ethyl acetate-water system, and then the organic layer was evaporated to dryness. Thereafter, the residue was adsorbed on a silica gel column and eluted with chloroform to obtain 3.4 g (76%) of 1-[(2-t-butyldimethylsilyloxyethoxy)methyl]-5-ethyl-6-(phenylthio)uracil.

reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | 1-[(2-t-butyldimethylsilyloxyethoxy)methyl]-5-ethyluracil | [Si](C)(C)(C(C)(C)C)OCCOCN1C(=O)NC(=O)C(=C1)CC | C15H28N2O4Si
reactant | diphenyl disulfide | 13 mmol, 2.8 g | C1(=CC=CC=C1)SSC1=CC=CC=C1 | C12H10S2
reactant | acetic acid | 1.3 ml | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 14 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 1-[(2-t-butyldimethylsilyloxyethoxy)methyl]-5-ethyl-6-(phenylthio)uracil | 3.4 g, 76% | [Si](C)(C)(C(C)(C)C)OCCOCN1C(=O)NC(=O)C(=C1SC1=CC=CC=C1)CC | C21H32N2O4SSi
